simulator lang=spectre
global 0

ahdl_include "./dut/higher_order_filter.va"

V_fb_clk (clk 0) vsource type=pulse val0=0 val1=0.9 period=1.8n width=0.8n rise=40p fall=40p
V_fb_rst (rst 0) vsource type=pwl wave=[0 0.9 2.4n 0.9 2.5n 0 72n 0]
V_fb_signal (vin 0) vsource type=pwl wave=[0 0.45 7.9n 0.45 8n 0.84 31.9n 0.84 32n 0.48 37.9n 0.48 38n 0.12 59.9n 0.12 60n 0.52 72n 0.52]
XFB_DUT (clk rst vin out metric) higher_order_filter

tran tran stop=72n maxstep=0.35n
save clk rst vin out metric
